US07271262B2
257B. (4-Amino-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone
The title compound was prepared from 4-Chloro-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidine by procedures analogous to those described for the preparation of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone. MS: 308.4 (MH+); HPLC Rf: 4.17 min. (HPLC method 4); HPLC purity: 100%.

reactant | 4-Chloro-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2)CC2CC2 | C10H10ClN3
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
product | (4-Amino-7-cyclopropylmethyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)CC2CC2 | C17H17N5O
